US06107036
4-Adamantylidene-2-(4'-methoxyphenyl)-4H-1,3-benzoxazine
21 mmol lithium aluminium hydride is carefully added to a suspension of 40 mmol titanium chloride in 100 ml absolute THF while stirring vigorously. After stirring for 1 hour at room temperature, a mixture of 15 mmol 2-(4'-methoxyphenyl)-4H-1,3-benzoxazine-4-one and 11 mmol adamantanone is added while cooling on ice. It is heated to boiling for 60 min under reflux. After cooling to room temperature it is poured onto 200 ml water. The mixture is shaken out twice with 200 ml ethyl acetate each time. The combined organic phases are washed once with water and separated. After drying over sodium sulfate it is filtered and the solvent is removed by distillation. The oily residue is separated by column chromatography (silica gel: ethyl acetate/petroleum ether 1:9).

reactant | lithium aluminium hydride | 21 mmol | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 2-(4'-methoxyphenyl)-4H-1,3-benzoxazine-4-one | 15 mmol | COC1=CC=C(C=C1)C=1OC2=C(C(N1)=O)C=CC=C2 | C15H11NO3
reactant | adamantanone | 11 mmol | C12C(C3CC(CC(C1)C3)C2)=O | C10H14O
reactant | water | 200 ml | O | H2O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
catalyst | titanium chloride | 40 mmol | [Cl-].[Ti+4].[Cl-].[Cl-].[Cl-]
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | 4-Adamantylidene-2-(4'-methoxyphenyl)-4H-1,3-benzoxazine | C12C(C3CC(CC(C1)C3)C2)=C2N=C(OC3=C2C=CC=C3)C3=CC=C(C=C3)OC | C25H25NO2
